US07101886B2
4-[3-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-propyl]-phenylamine was prepared according to the general method as outlined in Preparation 3 starting from 3-{4-[3-(4-nitro-phenyl)-propyl]-piperazin-1-yl}-1,2-benzoisothiazole (0.58 g, 1.52 mmol), 50 mL of THF treated with triethylamine (0.3 mL) and wet Raney nickel (0.56 g). The resultant solid was dried in vacuo (0.535 g, 1.52 mmol). Yield 100%; MS (APCI): 353 [M+H]+.

reactant | 3-{4-[3-(4-nitro-phenyl)-propyl]-piperazin-1-yl}-1,2-benzoisothiazole | 1.52 mmol, 0.58 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCN1CCN(CC1)C1=NSC2=C1C=CC=C2 | C20H22N4O2S
reactant | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Raney nickel | 0.56 g | [Ni] | Ni
solvent | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
product | 4-[3-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-propyl]-phenylamine | Yield 100% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCC2=CC=C(C=C2)N | C20H24N4S
